US07737166B2
6-Bromo-2-(dimethylamino)-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile (I-168)
6-Bromo-2-chloro-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile (I-167) (1.93 g, 6.67 mmol) was dissolved in dichloromethane (40 ml), then diisopropylethylamine (1.20 ml, 7.06 mmol) and dimethylamine (2.0 M tetrahydrofuran solution, 5.00 ml, 10.0 mmol) were added. After stirring with heating under reflux overnight, this was diluted with dichloromethane. After washing with water and drying over anhydrous sodium sulfate, the solvent was evaporated away under reduced pressure, then the resulting residue was purified by silica gel column chromatography (dichloromethane to dichloromethane:methanol=70:1) to obtain a yellow solid (1.12 g, 56%).

reactant | 6-Bromo-2-chloro-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile | 6.67 mmol, 1.93 g | BrC=1C(=C2C(N=C(O2)Cl)=C(C1C)C#N)F | C9H3BrClFN2O
reactant | diisopropylethylamine | 7.06 mmol, 1.20 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylamine | 10.0 mmol, 2.0 M, 5.00 ml | CNC | C2H7N
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 6-Bromo-2-(dimethylamino)-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile | 1.12 g, 56% | BrC=1C(=C2C(N=C(O2)N(C)C)=C(C1C)C#N)F | C11H9BrFN3O
